US09376418B2
A mixture of N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (1.00 g, 2.64 mmol), Na2CO3 (2.64 mL, 5.27 mmol, 2.0 M), and 3-bromo-5-fluoropyridine (0.511 g, 2.90 mmol) in 2-methyl tetrahydrofuran (13.0 mL) was purged with argon (3×), then Pd(dppf)Cl2—CH2Cl2 (0.108 g, 0.132 mmol) was added. The reaction was purged with argon (3×) and heated to 80° C. The reaction was monitored by LC/MS and upon completion was cooled to ambient temperature. The reaction mixture was filtered through a CELITE plug and washed with dichloromethane. The eluent was diluted with water and the organic layer was extracted, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel chromatography (acetone/hexanes) to afford N-[3-(5-fluoropyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine. MS APCI calc'd for C17H19F4N4 [M+H]+ 349. found 349.

reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 2.64 mmol, 1.00 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | Na2CO3 | 5.27 mmol, 2.0 M, 2.64 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-bromo-5-fluoropyridine | 2.90 mmol, 0.511 g | BrC=1C=NC=C(C1)F | C5H3BrFN
solvent | 2-methyl tetrahydrofuran | 13.0 mL | CC1OCCC1 | C5H10O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.132 mmol, 0.108 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | N-[3-(5-fluoropyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | FC=1C=C(C=NC1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12F4N4
